US07834048B2
N-[4-((1R,5S,6R)-3-Propionyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide (100 mg, 0.21 mmol) was dissolved in n-butanol (10 ml) followed by the addition of concentrated HCl (2 ml). The solution was refluxed for 3 hours, cooled and concentrated. The residue was washed with ethyl acetate, treated with NaOH (2M) and extracted with ethyl acetate (3×10 ml). The alkaline organic extracts were dried over MgSO4, filtered and concentrated to give N-[4-(3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide as an oil (amount 389 mg, yield 98%).

reactant | N-[4-((1R,5S,6R)-3-Propionyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | 0.21 mmol, 100 mg | C(CC)(=O)N1C[C@@H]2C[C@H]([C@@H]2C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C22H23F3N2O4S
reactant | HCl | 2 ml | Cl | ClH
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | N-[4-(3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | yield 98% | C12CNCC2C(C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N2O3S
